US07704995B2
1,1-dimethylethyl (3S)-3-[(triphenylmethyl)amino]azepane-1-carboxylate:
To an ice-cooled, stirred solution of (3S)-N-(triphenylmethyl)azepan-3-amine (30.0 mmol) in 60 mL of THF, was added 9.85 g (45.1 mmol, 1.5 eq.) of di-tert-butyl dicarbonate. The ice bath was removed, and the reaction stirred at room temperature for 19 h and concentrated. The crude oil was purified by silica gel chromatography (55 mm column, 7.5 inches of silica gel) using 10% EtOAc in hexanes as eluent. Concentration afforded 13.7 g (100% yield) of product as a solid.

reactant | (3S)-N-(triphenylmethyl)azepan-3-amine | 30.0 mmol | C1(=CC=CC=C1)C(N[C@@H]1CNCCCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N2
reactant | di-tert-butyl dicarbonate | 45.1 mmol, 9.85 g, 1.5 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl (3S)-3-[(triphenylmethyl)amino]azepane-1-carboxylate | 13.7 g, 100% yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]1CN(CCCC1)C(=O)OC(C)(C)C | C30H36N2O2
